US04707488
F: 3-(3,5-Difluorophenyl)propylamine
3-(3,5-Difluorophenyl)propylazide (0.034 mol) in methanol (75 ml) was shaken with a slurry of methanol washed Raney nickel under 50 psi hydrogen for 2 hours. The reaction mixture was filtered and the filtrate concentrated to yield 5.6 g (96%) of an oily product.

reactant | 3-(3,5-Difluorophenyl)propylazide | 0.034 mol | FC=1C=C(C=C(C1)F)CCCN=[N+]=[N-] | C9H9F2N3
solvent | methanol | 75 ml | CO | CH4O
product | 3-(3,5-Difluorophenyl)propylamine | 5.6 g, 96% | FC=1C=C(C=C(C1)F)CCCN | C9H11F2N
